US05668291
2,2'-Dithiobis[N-[4-(methylsulfonyl)phenyl]benzamide]
This compound was prepared according to the general method of Example 77 using 2,2'-dithiobisbenzoyl chloride (2.00 g, 5.83 mmol) in 50 mL of dichloromethane and 4-aminophenyl methyl sulfone (2.00 g, 11.7 mmol) in 16 mL of pyridine. The crude product was recrystallized from acetonitrile-DMF to yield 2.0 g of the title compound, mp 236°-238° C.

reactant | 2,2'-dithiobisbenzoyl chloride | 5.83 mmol, 2.00 g | C(C1=C(C=CC=C1)SSC1=C(C(=O)Cl)C=CC=C1)(=O)Cl | C14H8Cl2O2S2
reactant | 4-aminophenyl methyl sulfone | 11.7 mmol, 2.00 g | CS(=O)(=O)C1=CC=C(C=C1)N | C7H9NO2S
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | pyridine | 16 mL | N1=CC=CC=C1 | C5H5N
product | 2,2'-Dithiobis[N-[4-(methylsulfonyl)phenyl]benzamide] | 2.0 g | CS(=O)(=O)C1=CC=C(C=C1)NC(C1=C(C=CC=C1)SSC1=C(C(=O)NC2=CC=C(C=C2)S(=O)(=O)C)C=CC=C1)=O | C28H24N2O6S4
